US07214673B2
1,4-Dibenzyl-2-styryl-piperazine
Combine 1,4-dibenzyl-2-vinyl-piperazine (200.0 mg, 0.68 mmol), styrene (142.5 mg, 1.37 mmol), bis(tricyclohexylphosphine)benzylidine ruthenium (IV) dichloride (168.8 mg, 0.21 mmol), and dichloromethane (8 mL) and stir at reflux. After 24 hours, the reaction mixture was filtered and reduced to residue. The title compound was observed by LC/MS: mass spectrum (ion spray): m/z=369.1 (M+1); Rf=0.49 (hexanes/ethyl acetate (40:60)).

reactant | 1,4-dibenzyl-2-vinyl-piperazine | 0.68 mmol, 200.0 mg | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C=C | C20H24N2
reactant | styrene | 1.37 mmol, 142.5 mg | C=CC1=CC=CC=C1 | C8H8
catalyst | bis(tricyclohexylphosphine)benzylidine ruthenium (IV) dichloride | 0.21 mmol, 168.8 mg | C=CC1=CC=CC=C1.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Ru]Cl
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 1,4-Dibenzyl-2-styryl-piperazine | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C=CC1=CC=CC=C1 | C26H28N2
